US08039472B2
1-(4,4,4-Trimethoxy-butyl)-1H-indole-4-carboxylic acid
This compound is prepared analogously to Intermediate AO 1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid replacing (2-bromoethoxy)benzene with trimethyl 4-bromoorthobutyrate.

reactant | 1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid | O(C1=CC=CC=C1)CCN1C=CC=2C(=CC=CC12)C(=O)O | C17H15NO3
reactant | trimethyl 4-bromoorthobutyrate | COC(CCCBr)(OC)OC | C7H15BrO3
product | 1-(4,4,4-Trimethoxy-butyl)-1H-indole-4-carboxylic acid | COC(CCCN1C=CC=2C(=CC=CC12)C(=O)O)(OC)OC | C16H21NO5
